Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Oxycodone / tramadol
 
Attending: ___
 
Chief Complaint:
Ascending paresthesias
 
Major Surgical or Invasive Procedure:
Lumbar puncture

 
History of Present Illness:
___ is a ___ RH man with a history of
endocarditis and is now s/p MVR who presents with viral URI and
influenza vaccine followed by dull back pain followed by
ascending paresthesias in his upper and lower extremities. 

He was in his USOH until the week after ___ at which
time rhinorrhea, pharyngitis, and drooling (due to painful
swallowing from pharyngitis). He denies cough, dyspnea, fevers,
or chills. He saw his PCP last ___ at which time he
was negative for Strep. He was diagnosed with a viral URI, and
antibiotics were not prescribed; since he was afebrile, a flu
vaccine was offered and obtained. The following evening, he had 
a
temp of 100.2. He called after hours and was given Augmentin
875-125mg BID for 7 days; he took the first dose of ___ at
midnight. He has previously been on Augmentin without issue. On
___, he felt much better from URI standpoint, but he
continued to take ibuprofen and Sudafed. On ___, his cold
symptoms resolved.  

Between ___ and ___, he had dull, achy back pain in the
thoracic region involving right and left sides; it did not
radiate anteriorly, and there was no radicular pain. On ___
morning, he had a burning sensation proximal to his left third
digit that lasted 15 minutes and resolved. Shortly thereafter,
after leaning his forearm on a counter, he noticed redness in 
the
forearm without raised rash, pain, or pruritis (he has a photo).
This lasted 15 minutes and resolved. The following morning, he
woke up with paresthesias and numbness involving all fingertips
and tips of his toes. He particularly noticed it when he tapped
his fingers or moved his fingers. By the end of the day, this 
had
extended up to his MCP and MTP joints circumferentially. The
following morning, both hands and feet up to the wrists and
ankles, respectively, were involved. Against, he noticed the
paresthesias most when he tapped his paresthesias against a
surface. Tried to walk but felt unsteady, not veering to one
side. Denies difficulty lifting legs. Has had difficulty 
standing
up from a chair. Trouble with opening water bottle, buttoning,
and holding objects without dropping them (e.g., holding urine
bottle in ED). He's not sure if he had weakness or whether this
is all from sensory changes. 

No bowel/bladder issues. Had one loose stool which he attributed
to Augmentin. No saddle anesthesia. No falls. No other illnesses
or vaccines. Drooling as above resolved when pharnyngitis
resolved. No facial weakness, diplopia, dysarthria, dysphagia, 
or
problems with hand-eye coordination.  

 
Past Medical History:
- hypertension  
- myxomatous mitral valve with prolapse  
- native mitral valve endocarditis strep viridans ___ at 
___ with ceftriaxone x1 month. 
-->-->Per patient, he bit his cheek and then developed 
bacteremia
followed by endocarditis  
- mitral valve repair ___ at ___                   
 
Social History:
___
Family History:
Denies any history of neurologic illnesses.  
 
Physical Exam:
ADMISSION EXAMINATION
=====================
Physical Exam:
Vitals: T: 97.8F P: 102 R: 16  BP: 153/126-->141/86 SaO2: 100%RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple. No nuchal rigidity.
Pulmonary: no work of breathiing
Cardiac: warm and well-perfused
Abdomen: non-distended
Extremities: No C/C/E bilaterally

Neurologic:

-Mental Status: Alert, oriented to person, place, date (except
one day off ___, and situation. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Language is fluent with intact repetition 
and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes (even with
prompting). There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: Slower activation of left lower face. 
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk and tone. No pronation, no drift. No
adventitious movements, such as tremor, noted. No asterixis
noted.  

  Delt Bi Tri WE FE IO  
  C5   C6 C7  C6 C7 T1  
L 4+   ___   4- 4
R 5    ___  4+ 4+
Others tested: Ffl 4 bilaterally, WF 4 bilaterally
 
  IP Quad Ham   TA ___ Gas 
  L2 L3   L4-S1 L4 L5  S1/S2  
L 4  5*    5    ___ 
R 4+ **    5    ___
Others tested: toe dorsiflexion ___, L inversion 5- and R 5,
eversion 5 bilaterally
*: giveway
**: initially offers resistance in 4 range only but then full
resistance as muscle descended down

-Sensory: 
Light touch: RUE hyperesthesia 120% of normal circumferential
from fingertips to wrist, otherwise normal; LUE 120% distal
hyperesthesia to MCPs circumferentially (possibly more normal
sensation in second digit vs fifth on palmar aspect); L and R
feet distal to ankle 120% hyperesthesia
Temperature: UE: R and L hands 40% of normal except 0% at
fingertips circumferentially, normal otherwise; ___: 0%
bilaterally, circumferentially distal to mid-calf 
Pinprick: UE: Hyperesthesia in fingertips, 50% normal in palms;
___ 40-50% of normal in lateral feet distal to ankle, medial
aspect of feet normal, remainder of extremities normal
Vibratory: Decreased at great toes, intact at lateral malleoli
Proprioception: 1 proprioceptive error in R thumb of 6 attempts,
otherwise intact in L thumb and great toes

-DTRs: 1 at R biceps and L brachioradialis, otherwise 0. Plantar
response flexor. No clonus.

-Coordination: Dysmetria on left FNF and HKS. Right ok. Clumsy
finger tap on left, right ok. RAM ok. On rebound testing, he had
___ high amplitude, slow movements up and down bilaterally that
appeared almost volitional (patient denied). No truncal ataxia.  


-Gait: Took a few hesistant steps but nearly fell while
transferring weight onto left foot and required assist from
examiner. 

DISCHARGE EXAMINATION
=====================
Physical Exam:
 Vitals: T: 98.0 BP: 166/105 [121-166/74-105] HR: 88 [81-94] RR:
24 [___] SpO2: 96% RA
 General: awake, cooperative, NAD
 HEENT: NC/AT, no scleral icterus noted, MMM
 Pulmonary: breathing comfortably without tachypnea
 Cardiac: skin warm, well-perfused
 Abdomen: soft, ND
 Extremities: symmetric, no edema

Neurologic:

-Mental Status: Alert, cooperative. Language is fluent with
intact comprehension. Able to follow both midline and
appendicular commands.

-Cranial Nerves: PERRL (4->2 mm ___. Bilateral ptosis (improved 
OD, stable OS). EOMI with ___ beats of nystagmus to the left. 
Facial sensation intact to light touch and pinprick V1-V3. 
Strong eye closure, symmetric eyebrow raise but weak mouth 
closure, somewhat stronger than yesteday. Hearing intact to 
conversation. Palate elevates symmetrically. ___ strength in 
trapezii bilaterally. Tongue protrudes in midline.

-Motor: No pronator drift bilaterally. Slight rebound in LUE.
Slight motor impersistence in RUE > LUE.
   Delt Bic Tri WrE FE IP Quad Ham TA Gastroc 
 L  5    ___  ___    5  5     5    
 R  5    ___  5  4+* 5    5  5     5    
 *Give-way weakness.

-Sensory: Intact to LT throughout. Intact to PP with 
hyperesthesia at most distal tips of fingertips in BUE and toe 
tips/MCP joints in BLE.

-DTRs:
    Bi Tri ___ Pat Ach 
  L  0  0    0    0   0                     
  R  0  0    0    0   0                     

-Coordination: Trace dysmetria on FNF. No rebound.
 
Pertinent Results:
HEMATOLOGY AND CHEMISTRIES
==========================
___ 06:25AM BLOOD WBC-5.5 RBC-4.92 Hgb-14.1 Hct-42.6 MCV-87 
MCH-28.7 MCHC-33.1 RDW-13.1 RDWSD-41.0 Plt ___
___ 06:15AM BLOOD Glucose-109* UreaN-13 Creat-0.7 Na-138 
K-4.3 Cl-100 HCO3-24 AnGap-14
___ 06:15AM BLOOD Calcium-9.2 Mg-2.0
___ 05:50AM BLOOD VitB12-609 Folate-10
___ 05:50AM BLOOD %HbA1c-5.0 eAG-97
___ 05:50AM BLOOD TSH-1.0
___ 05:50AM BLOOD RheuFac-<10 ___ CRP-1.6 
antiTPO-LESS THAN 
___ 05:50AM BLOOD Cortsol-13.9
___ 05:50AM BLOOD PEP-NO SPECIFI IgA-350
___ 09:15PM BLOOD HIV Ab-NEG
___ 05:50AM BLOOD tTG-IgA-4
___ 01:00PM BLOOD antiDGP-5
___ 05:50AM BLOOD HCV Ab-NEG
___ 06:15AM BLOOD VITAMIN B6 (PYRIDOXINE)-PND
___ 06:25AM BLOOD GANGLIOSIDE AB PANEL, SERUM (GM1, 
ASAILO-GM-1 AND GD1B)-PND
___ 01:00PM BLOOD GLUTAMIC ACID DECARBOXYLASE- <5
___ 01:00PM BLOOD PARANEOPLASTIC AUTOANTIBODY 
EVALUATION-PND
___ 05:50AM BLOOD HEAVY METAL SCREEN- Negative
___ 05:50AM BLOOD COPPER (SERUM)- 95
___ 05:50AM BLOOD SED RATE- 2
___ 05:50AM BLOOD VITAMIN E-PND
___ 05:50AM BLOOD RO & LA- <1.0
___ 05:50AM BLOOD METHYLMALONIC ___
___ 05:50AM BLOOD GQ1B IGG ANTIBODIES-PND
___ 05:50AM BLOOD ANGIOTENSIN 1 - CONVERTING ___

___ 02:00PM URINE Color-Straw Appear-Clear Sp ___
___ 02:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 02:00PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

CEREBROSPINAL FLUID
===================
___ 04:02PM CEREBROSPINAL FLUID (CSF) TNC-1 RBC-8* Polys-2 
___ ___ 04:02PM CEREBROSPINAL FLUID (CSF) TotProt-63* 
Glucose-73
___ 04:02PM CEREBROSPINAL FLUID (CSF) VARICELLA DNA (PCR)- 
Neg
___ 04:02PM CEREBROSPINAL FLUID (CSF) PARANEOPLASTIC 
AUTOANTIBODY EVALUATION, CSF-PND
___ 04:02PM CEREBROSPINAL FLUID (CSF) HERPES SIMPLEX VIRUS 
PCR- Neg
___ 04:02PM CEREBROSPINAL FLUID (CSF) CYTOMEGALOVIRUS DNA, 
QUALITATIVE, PCR- Neg
___ 04:02PM CEREBROSPINAL FLUID (CSF) ___ VIRUS 
DNA, PCR- Neg

MICROBIOLOGY
============
___ 4:02 pm CSF;SPINAL FLUID      Source: LP #3. 
                            **FINAL REPORT ___
   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 
   FLUID CULTURE (Final ___:    NO GROWTH. 

___ 1:00 pm SEROLOGY/BLOOD
                            **FINAL REPORT ___
   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive.

___ 5:50 am Blood (LYME)
                            **FINAL REPORT ___
   Lyme IgG (Final ___: 
      NEGATIVE BY EIA. 
           (Reference Range-Negative). 
   Lyme IgM (Final ___: 
      NEGATIVE BY EIA. 
           (Reference Range-Negative). 

___ 7:10 pm BLOOD CULTURE
   Blood Culture, Routine (Pending)

___ 2:00 pm URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    NO GROWTH.

IMAGING
=======
___ 2:43 ___ CHEST (PA & LAT)   
No acute cardiopulmonary abnormality. 

___ 6:36 ___ MR HEAD W & W/O CONTRAST 
1. Essentially unremarkable contrast enhanced brain MRI, with 
mild paranasal sinus inflammatory disease as above. 

___ 6:36 ___ MR ___ W/O CONTRAST 
1. No evidence for spinal cord compression, cord signal 
abnormality, or 
abnormal enhancement.  No epidural fluid collection. 
2. Multilevel degenerative changes of the cervical spine, as 
detailed above.  Findings are most significant at C5-6 with 
moderate canal narrowing, severe right and moderate severe left 
neural foraminal narrowing. 
3. Moderate canal narrowing with bilateral severe neural 
foraminal narrowing is seen at C6-7. 
 
EMG Study Date of ___ 
There is electrophysiologic evidence for a moderate median 
neuropathy at the right wrist, as in carpal tunnel syndrome. In 
addition, there is evidence for a mild ulnar neuropathy at the 
right elbow. 
  
There is no definite evidence for a generalized demyelinating 
polyradiculoneuropathy, as in Guillain ___ Syndrome. There are 
subtle signs of ongoing denervation in multiple muscles, which 
could reflect an early, generalized axonal neuropathy or 
evolving radiculopathies, demyelinating or otherwise. 
  
Note that the absence of typical findings for a demyelinating 
polyneuropathy could be due to the early timing of this study in 
relation to the patient's symptoms. Repeat evaluation can be 
considered in ___ weeks, if clinically indicated. 
 
Brief Hospital Course:
Mr. ___ is a ___ man with history notable for HTN 
and myxomatous mitral valve prolapse c/b SBE (___) s/p mitral 
valve repair (___) admitted with back pain and ascending 
paresthesias in the setting of a recent URI and influenza 
immunization concerning for an acute immune-mediated 
polyneuropathy. Examination notable for areflexia, distal loss 
of sensation to cold and hyperesthesia to pin prick, and 
dysmetria out of proportion to sensory deficits, consistent with 
a generalized polyneuropathy or polyradiculopathy; CSF 
evaluation also notable for albuminocytologic dissociation also 
consistent with Guillain-Barré syndrome. MRI brain unremarkable 
with MRI ___ notable for C5-7 degenerative changes with 
moderate-to-severe neural foraminal stenosis.

In light of concomitant sensory findings and ataxia, 
differential includes acute motor and sensory axonal neuropathy, 
acute inflammatory demyelinating polyradiculoneuropathy, or 
___ variant GBS; inpatient EMG only notable for subtle 
signs of muscle denervation without definitive evidence of GBS. 
A five-day course of IVIG was completed, with some symptomatic 
improvement; subsequent ___ and OT evaluations recommended 
discharge to an acute rehabilitation facility for ___ 
rehabilitation.

Of incidental note, moderate right-sided median neuropathy was 
noted on EMG consistent with carpal tunnel syndrome, as well as 
mild ulnar neuropathy on the right.

TRANSITIONAL ISSUES
1. Follow up pending B6 levels, GM1/GD1B ganglioside antibody 
panel, GQ1B antibodies, and paraneoplastic serum and CSF panels.
2. Consider repeat EMG in ___ weeks for further characterization 
of polyneuropathy/polyradiculopathy.
3. Recommend avoiding seasonal influenza immunization if 
feasible due to onset of GBS symptoms following immunization.
4. Recommend right wrist splint at night for carpal tunnel 
syndrome; may also consider mesh sleeve for ulnar neuropathy.
 
Medications on Admission:
None

 
Discharge Medications:
None
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Guillain-Barré syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for 
evaluation of changes in sensation in your hands and feet as 
well as unsteadiness. Neurologic examination showed sensation 
changes, loss of reflexes, and weakness concerning for a variant 
of Guillain-Barré syndrome, with suggestive findings also noted 
on spinal tap. Testing of your blood and spinal fluid did not 
reveal signs of a viral infection, Lyme disease, or systemic 
autoimmune disease; tests are still pending, however, for 
specific variants of Guillain-Barré syndrome or autoimmune 
conditions affecting the central nervous system. You also had a 
nerve and muscle study (EMG) done during your stay that showed 
very early signs of nerve inflammation, though this study was 
not yet diagnostic of specific variants of Guillain-Barré 
syndrome.

You received treatment with IV immunoglobulin (IVIG) with some 
improvement in your symptoms. Physical and occupational therapy 
evaluations, however, recommended discharge to an acute 
rehabilitation facility for ___ rehabilitation.

Please attend your follow-up appointments as listed below to 
follow up on your remaining studies.

It was a pleasure taking care of you at ___.

Sincerely,
Neurology at ___
 
Followup Instructions:
___